US05552398
eq-Quinolizidin-2-ylmethyl 1-acetylindole-3-carboxylate (E30)
eq-Quinolizidin-2-ylmethyl indole-3-carboxylate (E9b) was acylated with acetyl chloride using the method of Example 18. The product was chromatographed on silica gel eluting with ethyl acetate to give a pale yellow oil, which crystallised from ether to afford the title compound (E30) as a white solid mp 127°-129° C.

reactant | Quinolizidin-2-ylmethyl indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC1CC2CCCCN2CC1 | C19H24N2O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | Quinolizidin-2-ylmethyl 1-acetylindole-3-carboxylate | C(C)(=O)N1C=C(C2=CC=CC=C12)C(=O)OCC1CC2CCCCN2CC1 | C21H26N2O3
